US04698337
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-azidoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 0.70 g.), 10% palladium carbon (0.85 g.) and acetic acid (10 ml.) was subjected to catalytic reduction under ordinary pressure at room temperature for 13 hours. The resultant mixture was filtered, and the filtrate was concentrated in vacuo. The residue was stirred in diisopropyl ether (30 ml.) and methanol (10 ml.) for an hour. The precipitates were collected by filtration, washed with diisopropyl ether and dried to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 0.35 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-azidoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.70 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCN=[N+]=[N-] | C18H18N12O6S3
catalyst | palladium carbon | 0.85 g | [C].[Pd]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.35 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCN | C18H20N10O6S3
